### PR TITLE
feat(NumberTheory/Padics): the completion of `ℚ` at a finite place is `ℚ_[p]`

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks! A bunch of mostly stylistic comments below

File: Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean [hunk 1]
```diff
@@ -0,0 +1,196 @@
...
+    exact n.2, by simpa using n.2.ne_zero⟩
+  left_inv p := by
+    ext1
+    simp only [span_natAbs, Ideal.span_singleton_generator]
+  right_inv n := by
+    ext
+    simpa only [Ideal.span_singleton_eq_span_singleton, Int.associated_iff_natAbs] using
+      Ideal.span_singleton_generator (Ideal.span {(n : ℤ)})
+
+/-- The maximal ideal (`span {n}`) associated to a prime `p : ℕ`. -/
```
Comment (xroblot) [inline Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean:48]:
```suggestion
/-- The maximal ideal (`span {p}`) associated to a prime `p : ℕ`. -/
```

File: Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean [hunk 2]
```diff
@@ -0,0 +1,196 @@
...
+def Padic.ofAdicCompletion (p : ℕ) [Fact p.Prime] :
+    p.toHeightOneSpectrum.adicCompletion ℚ →+* ℚ_[p] := by
+  letI := p.toHeightOneSpectrum.adicValued (K := ℚ)
+  refine UniformSpace.Completion.extensionHom (Rat.castHom _) ?_
+  apply continuous_of_continuousAt_zero
+  rw [ContinuousAt, map_zero, (Valued.hasBasis_nhds_zero _ _).tendsto_iff Metric.nhds_basis_ball]
+  intro ε hε
+  obtain ⟨k, hk⟩ := PadicInt.exists_pow_neg_lt p hε
+  refine ⟨WithZero.unitsWithZeroEquiv.symm (Multiplicative.ofAdd (-k)), trivial, ?_⟩
+  intro x hx
```
Comment (xroblot) [inline Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean:92]:
```suggestion
  refine ⟨WithZero.unitsWithZeroEquiv.symm (Multiplicative.ofAdd (-k)), trivial, fun x hx ↦ ?_⟩
```

If you want to

**Review by xroblot — APPROVED** [review]

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by pechersky** [comment]
Is there a way to also state this for Completion (WithVal v_p Q)? Additionally, the same for Completion (WithVal v_p Z) for Z_p. It would make it easier to discuss Z_p modules.

What is necessary to turn the ring homs into ring equivs? Or Q alg equivs?

**Comment by smmercuri** [comment]
> What is necessary to turn the ring homs into ring equivs? Or Q alg equivs? You have that it is a homeomorph -- can the bijective prop be extracted reused to do the upgrade?

For a ring equiv, the bijective prop can be directly used. I've been working off this PR locally the past week and needed the following 
```lean
noncomputable def PadicInt.adicCompletionIntegersEquiv (p : ℕ) [Fact p.Prime] :
    p.toHeightOneSpectrum.adicCompletionIntegers ℚ ≃+* ℤ_[p] :=
  RingEquiv.ofBijective _ (isHomeomorph_adicCompletionIntegers p).bijective
```

Could be worth adding to this PR

**Comment by faenuccio** [comment]
I am going to review this in detail soon, but just wanted to make @erdOne aware of our file
https://github.com/mariainesdff/LocalClassFieldTheory/blob/master/LocalClassFieldTheory/PadicCompare.lean

Unfortunately it does not compile at the moment, but some things that are useful from there are the isomorphism as uniform spaces and the interpretation of $$\mathbb{Z}_p$$ as a valuation subring of $$\mathbb{Q}_p$$. Our approach with @mariainesdff there is to use `Valued` a lot, but this typeclass is being probably refactored, so parts about it couls soon be obsolete. On the other hand, I would suggest that you pick from there some more results about `Valuation` (and `ValuationSubring`).

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean [hunk 3]
```diff
@@ -0,0 +1,193 @@
...
+import Mathlib.RingTheory.DedekindDomain.AdicValuation
+import Mathlib.RingTheory.Int.Basic
+import Mathlib.Topology.Algebra.Valued.NormedValued
+import Mathlib.Topology.Algebra.WithZeroMulInt
+
+/-!
+# The height one spectrum of `ℤ`
+
+## Main results
+- `Int.heightOneSpectrumEquiv`: The height one spectrum of `ℤ` is in bijection with primes in `ℕ`.
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean:17]: It seems to me that there are two unrelated results here: everything concerning the HT1 spectrum of Z (that should probably not be in the Padics folder), and the (topological) isomorphism, that should be in another file.

File: Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean [hunk 4]
```diff
@@ -0,0 +1,193 @@
...
+    rw [← Int.prime_iff_natAbs_prime, ← Ideal.span_singleton_prime, Ideal.span_singleton_generator]
+    · infer_instance
+    · rw [ne_eq, ← Submodule.IsPrincipal.eq_bot_iff_generator_eq_zero]
+      exact p.3⟩
+  invFun n := ⟨Ideal.span {(n : ℤ)}, by
+    rw [Ideal.span_singleton_prime (by exact_mod_cast n.2.ne_zero), ← Nat.prime_iff_prime_int]
+    exact n.2, by simpa using n.2.ne_zero⟩
+  left_inv p := by
+    ext1
+    simp only [span_natAbs, Ideal.span_singleton_generator]
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean:41]: Here and below, I think we prefer to avoid squeezing terminal simps, no?

File: Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean [hunk 5]
```diff
@@ -0,0 +1,193 @@
...
+  trans p.toHeightOneSpectrum.valuation ℚ (algebraMap ℤ ℚ r.num / algebraMap ℤ ℚ r.den)
+  · simp [Rat.num_div_den]
+  rw [map_div₀, valuation_of_algebraMap, valuation_of_algebraMap,
+    intValuation_toHeightOneSpectrum, intValuation_toHeightOneSpectrum, ← WithZero.coe_div,
+    ← ofAdd_sub, padicValRat_def, padicValInt, padicValInt, Int.natAbs_cast]
+  · ring_nf
+  · simp
+  · simpa
+
+/-- The canonical map from the abstract completion of `ℚ` at `p` to `ℚ_[p]`.
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean:79]:
```suggestion
/-- The map from the abstract completion of `ℚ` at `p` to `ℚ_[p]`.
```

File: Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean [hunk 6]
```diff
@@ -0,0 +1,193 @@
...
+  exact_mod_cast ‹Fact p.Prime›.1.one_le
+
+@[fun_prop]
+lemma Padic.continuous_ofAdicCompletion (p : ℕ) [Fact p.Prime] :
+    Continuous (Padic.ofAdicCompletion p) :=
+  letI := p.toHeightOneSpectrum.adicValued (K := ℚ)
+  UniformSpace.Completion.continuous_extension
+
+open Filter in
+open WithZeroTopology in
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean:111]: Can't you put these in the same line with a comma (not at VSCode at the moment)?

File: Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean [hunk 7]
```diff
@@ -0,0 +1,193 @@
...
+      apply WithZero.coe_inj.mp
+      simp only [WithZero.coe_inv, ofAdd_toAdd, WithZero.coe_unzero,
+        ← Nat.valuation_toHeightOneSpectrum _ h, adicValued_apply]
+  · apply isClosed_eq
+    · fun_prop
+    · refine continuous_subtype_val.comp ?_
+      refine (WithZeroMulInt.continuous_toNNReal ?_).comp Valued.continuous_extension
+      exact_mod_cast ‹Fact p.Prime›.1.one_lt
+
+lemma Padic.isHomeomorph_ofAdicCompletion (p : ℕ) [Fact p.Prime] :
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean:141]: The corresponding iso of uniform structures is probably crucial, and not very hard to obtain (you can have a look at the link I sent to my project with María Inés)

File: Mathlib/Topology/Algebra/Valued/WithVal.lean [hunk 8]
```diff
@@ -84,7 +84,7 @@ variable [Ring R] (v : Valuation R Γ₀)
 /-- Canonical ring equivalence between `WithVal v` and `R`. -/
 def equiv : WithVal v ≃+* R := RingEquiv.refl _
 
-theorem apply_equiv (r : WithVal v) : v (WithVal.equiv v r) = v r := rfl
+theorem apply_equiv (r : WithVal v) : Valued.v ((WithVal.equiv v).symm r) = v r := rfl
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Valued/WithVal.lean:87]: What happens here? Where has the definition changed so that the old `rfl` proof still works but with a `.symm` now?

File: Mathlib/Topology/Algebra/WithZeroMulInt.lean [hunk 9]
```diff
@@ -0,0 +1,27 @@
...
+Copyright (c) 2025 Andrew Yang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Andrew Yang
+-/
+import Mathlib.Analysis.SpecificLimits.Basic
+import Mathlib.Data.Int.WithZero
+import Mathlib.Topology.Algebra.WithZeroTopology
+
+/-!
+# Topology on `ℤₘ₀`
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/WithZeroMulInt.lean:11]: A recent PR #24977 changes this notation, can you put this in sync?

**Review by faenuccio — COMMENTED** [review]
We probably need to add a bit more structure to the iso, and I wonder if some results should not be stated&proved for arbitrary number fields. Also, I left some comments about where these results should perhaps be moved.

**Comment by pechersky** [comment]
Is there anything you can reuse/incorporate from #27696?

File: Mathlib/Topology/Algebra/Valued/WithVal.lean (hunk 8 above)
Comment (smmercuri) [reply Mathlib/Topology/Algebra/Valued/WithVal.lean:87]: `WithVal.equiv v` is just `RingEquiv.refl _` and `WithVal v` defeqs to `R` so both `equiv v r` and `(equiv v).symm r` will work with `rfl` here. We want to avoid defeq abuse here -- I think the original was correct? We have `r : WithVal v` and `equiv v : WithVal v → R`. If you want to use `.symm` then we should have `r : R`

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
